US07371869B2
To a solution of 2-((S)-2-{2-amino-2-[4-(2-methoxy-ethoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester (a mixture of two epimers R/S=85:15) (0.16 g , 0.31 mmol) and diisopropylethylamine (0.31 mL, 1.78 mmol) in dichloromethane (20 mL) was added to a solution of diphosgene (0.03 μL, 0.25 mmol) in dichloromethane (30 mL) over a period of 10 minute at −10° C. The mixture was stirred at −10° C. for 15 minutes Water was added to quench the reaction, then the mixture was extracted with ethyl acetate. The organic layer was separated, washed with water, brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography over silica gel eluted with ethyl acetate to give 2-((S)-2-{4-[4-(2-methoxy-ethoxy)-phenyl]-2,5-dioxo-imidazolidin-1-yl}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester as a white solid (a mixture of two epimers R/S=85:15) (0.075 g, 87%).

reactant | 2-((S)-2-{2-amino-2-[4-(2-methoxy-ethoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC(C(C1=CC=C(C=C1)OCCOC)N)=O)=O | C25H28N4O6S
reactant | diisopropylethylamine | 1.78 mmol, 0.31 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphosgene | 0.25 mmol, 0.03 μL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-((S)-2-{4-[4-(2-methoxy-ethoxy)-phenyl]-2,5-dioxo-imidazolidin-1-yl}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)N1C(NC(C1=O)C1=CC=C(C=C1)OCCOC)=O)=O | C26H26N4O7S
